US06897231B2
B. 3-[3-(3-Pyridylcarbonylamino)phenyl]-1H-indazole-5-carboxamide
Precursor, 1-perhydro-2H-pyran-2-yl-3-[3-(3-pyridylcarbonylamino) phenyl]-1H-indazole-5-carboxamide, was dissolved in ethanol (4 mL) . Hydrogen peroxide (4 mL, 30% wt) was added to the solution followed by 0.200 mL of 6.0 N NaOH aqueous solution. The suspension turned white upon heating to 60° C. for 3.5 h. The reaction could not be driven to completion even after addition of excess reagent. The reaction mixture was neutralized. A white precipitate formed upon addition of water. The solid was collected by filtration and dried in a vacuum oven at 40° C. overnight. A suspension of this solid in 10 mL of toluene was cooled to 0° C. HCl gas was bubbled through the suspension for 10 min before stirring the flask content at room temperature for 2 hours. The desired product was purified using preparatory HPLC (0.049 g, 30% yield over 3 steps): 1H NMR (CD3OD) 9.2 (d, 1H), 8.77 (dd, 1H), 8.7 (s, 1H), 8.4 (s, 1H), 8.39 (dt, 1H), 7.9-7.8 (m, 3H), 7.6-7.5 (m, 4H); ES-MS (m/z) 358 [M+H]+.

reactant | 1-perhydro-2H-pyran-2-yl-3-[3-(3-pyridylcarbonylamino) phenyl]-1H-indazole-5-carboxamide | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C(=O)N)C1=CC(=CC=C1)NC(=O)C=1C=NC=CC1 | C25H23N5O3
reactant | Hydrogen peroxide | 4 mL | OO | H2O2
reactant | NaOH | 6.0 N, 0.200 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 3-[3-(3-Pyridylcarbonylamino)phenyl]-1H-indazole-5-carboxamide | 30% yield | N1=CC(=CC=C1)C(=O)NC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)N | C20H15N5O2
